US06617336B1
7.5 g (43.86 mmol) of 2-hydroxy-8-vinylquinoline, 5.32 ml of pyridine (65.78 mmol) and 100 ml of dichloromethane are placed in a 250 ml round-bottomed flask. The mixture is cooled to 0° C. with an ice bath and 11.10 ml (65.78 mmol) of trifluoromethane-sulfonic anhydride are added dropwise. Stirring is continued at 0° C. for ½ h and the reaction mixture is hydrolyzed by addition of 100 ml of water. Extraction is carried out with dichloromethane (3×150 ml). The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is purified by silica chromotypography column (eluent: heptane/dichloromethane 1/1) to provide 7.2 g of 2-trifluoromethanesulfonyloxy-8-vinylquinoline in the form of a yellow oil. (Yield: 52%)

reactant | 2-hydroxy-8-vinylquinoline | 43.86 mmol, 7.5 g | OC1=NC2=C(C=CC=C2C=C1)C=C | C11H9NO
reactant | pyridine | 65.78 mmol, 5.32 ml | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | trifluoromethane-sulfonic anhydride | 65.78 mmol, 11.10 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 100 ml | O | H2O
product | 2-trifluoromethanesulfonyloxy-8-vinylquinoline | 7.2 g, Yield: 52% | FC(S(=O)(=O)OC1=NC2=C(C=CC=C2C=C1)C=C)(F)F | C12H8F3NO3S
